US09193694B2
A mixture of 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one (200 mg, 0.69 mmol), 4-bromo-1-methylpyridin-2(1H)-one (156 mg, 0.83 mmol), cesium carbonate (674 mg, 2.07 mmol), 1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium (49 mg, 0.069 mmol) was dissolved in a degassed mixture of DMF and water 3/1.5 (4.5 mL). The mixture was heated in microwave at 85° C. for 40 min. The mixture was poured into EtOAc and washed with water and brine. The organic layer was collected, dried over sodium sulfate and loaded onto silica gel. A flash column (5% MeOH in EtOAc) and reverse phase chromatography gave 7-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one.

reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | 0.69 mmol, 200 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(C(NCCO2)=O)C1)C | C15H20BNO4
reactant | 4-bromo-1-methylpyridin-2(1H)-one | 0.83 mmol, 156 mg | BrC1=CC(N(C=C1)C)=O | C6H6BrNO
reactant | cesium carbonate | 2.07 mmol, 674 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 4.5 mL | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium | 0.069 mmol, 49 mg | Cl[Pd]Cl
product | 7-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | CN1C(C=C(C=C1)C=1C=CC2=C(C(NCCO2)=O)C1)=O | C15H14N2O3
